Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing / Verapamil / Beta-Blockers 
(Beta-Adrenergic Blocking Agts) / Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
cardiac arrest
 
Major Surgical or Invasive Procedure:
cardiac catheterization
endotracheal intubation
intra-aortic balloon pump placement
femoral line placement
___ protocol

 
History of Present Illness:
___ M with h/o asymmetric hypertrophic cardiomyopathy s/p 
myomectomy admitted post-cardiac arrest. Per patient's friend he 
had myomectomy in ___ of this year. Sicne then he has not felt 
the same. His roommate notes that he has been more lethargic and 
only at 75%. He had two hospitalizations at ___ since then. One 
was for AF with RVR complicated by CHF for which he was 
cardioverted and sent home on coumadin and amiodarone. He also 
developed Afib post-op and was due to have either ppm placed for 
this on ___ of this week, however the roommate is unclear 
whether it was a ppm or an ICD that was to be placed. Yesterday, 
he had started complaining of SOB and looked pale. He went to 
bed but this morning still felt sick - like he could not catch 
his breath. His friend says he was also clutching at his heart. 
He had a cup of OJ and they decided to still go out to the 
___ Auto ___. They drove a two-seater motorcycle from 
___ to ___ and when they got to the show the patient 
looked even more pale, diaphoretic, and SOB. His friend called 
EMS who found the patient diaphoretic and complaining of SOB and 
CP. They loaded him into the ambulance while he was still awake. 
He reportedly had VT when EMS first found him and then had a PEA 
arrest while in the ambulance. He was intubated emergently and 
an IO catheter was placed. He may have also been shocked for VT 
although there are no EMS records.
 In ED patient was initially hypotensive and unresponsive with 
CPR in progress. He continued reeceiving CPR and was given an 
Amio bolus. He regained a femoral pulse but had pressures in the 
___ so he was started on dopa gtt. Because he had anterior 
ST elevations and had had chest pain code STEMI was called. In 
the meantime he lost his pulse again requiring 2 more minutes of 
CPR before again regaining pulse. After this he was noted to 
have sats in the ___ despite a good pleth on the monitor. 
Airway was mainstem at first. Tube pulled back a little with 
mild improvement in sats but still with desats even with breath 
sounds. CXR looked like massive aspiration. They were unable to 
suction any secretions.
 He was then taken emergently to the cath lab where he was found 
to have clean coronaries. He received a total of about 7L NS 
without improvement in his BP and dopa had to be uptitrated to 
20. 
An aortic balloon pump was also placed. The patient was noted to 
have myoclonic movements and fixed and dilated pupils without 
any sedation.  He had no urine output. 
 On arrival to the CCU the patient was intubated with myoclonic 
movements. He had a large melanic stool. 

.  
Per friend ___, review of systems negative for any prior 
history of stroke, TIA, deep venous thrombosis, pulmonary 
embolism, bleeding at the time of surgery, myalgias, joint 
pains, cough, hemoptysis, black stools or red stools. He denied 
recent fevers, chills or rigors. 
.  
Cardiac review of systems is notable for absence of paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema. 
 
Past Medical History:
1. CARDIAC RISK FACTORS: Diabetes(-), Dyslipidemia(+), 
Hypertension(+)  
2. CARDIAC HISTORY:  
-CABG:  None
-PERCUTANEOUS CORONARY INTERVENTIONS:  None
-PACING/ICD:  None
3. OTHER PAST MEDICAL HISTORY (from ___ records):
Asymmetric HCM s/p myomectomy in ___ complicated by post-op 
afib
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.
 
Physical Exam:
VS: T=94 BP=100/50 HR=113 RR=26 O2 sat= 70  
GENERAL: Obese male intubated. 
HEENT: NCAT. Sclera anicteric. Conjunctiva were pink.  
NECK: Supple difficult to assess JVP ___ habitus and collar 
around neck
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Tachycardic. Distant heart sounds with no appreciable 
m/r/g. No thrills, lifts. No S3 or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. 
Bilateral crackles. No wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No c/c/e. Femoral central line and venous sheath in 
place. IO line in left tibia.  
PULSES:  
Right: Radial 1+ DP 1+ ___ 1+  
Left: Radial 1+ DP 1+ ___ 1+  
NEURO: Pupils 5mm fixed and dilated with myoclonic movements of 
bilateral upper and lower extremities and no withdrawal to 
painful stimuli.
 
Pertinent Results:
Cardiac Cath:
1. Coronary arteries are free of angiographically significant 
stenosis. 
2. Successful placement of an intra-aortic balloon pump.

EEG:
IMPRESSION: This telemetry captured no pushbutton activations. 
Routine 
sampling and spike and seizure detection programs showed a burst 

suppression pattern with frequent bursts of high voltage 
generalized 
discharges having sharp features. These occurred every five to 
15 
seconds and lasted one to two seconds or less. Early on, these 
correlated clinically with myoclonus; however, later during the 
study, 
there was no clinical correlate. There were no prolonged 
electrographic 
seizures 

IMPRESSION: This telemetry captured no pushbutton activations. 
Routine 
sampling and spike and seizure detection programs continue to 
show a 
burst suppression pattern with frequent bursts of high voltage, 
often 
epileptiform-appearing discharges lasting one to three seconds 
with 
variable periods of suppression in between. There were no 
prolonged 
electrographic seizures on this recording. 

IMPRESSION: This telemetry captured no pushbutton activations. 
Routine 
sampling initially showed a burst suppression pattern which 
gradually 
progressed over the late evening hours to a flat background 
lacking any 
detectable electrical brain activity. Although the latter 
portions of 
the study showed no detectable brain activity, this study was 
not 
performed by brain death protocol. There were no prolonged 
electrographic seizures. 

TTE:
The left atrium is moderately dilated. There is mild symmetric 
left ventricular hypertrophy with normal cavity size. There is 
moderate to severe regional left ventricular systolic 
dysfunction with dysnchrony of the septum and severe hypokinesis 
of the distal half of the inferior wall. The remaining segments 
contract well (LVEF 35%). No valvular ___ or resting LVOT 
gradient is identified. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and trace aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. There is no mitral valve prolapse. Mild to 
moderate (___) mitral regurgitation is seen. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion. 

IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with regional systolic dysfunction c/w 
known prior myomectomy and possible coronary artery disease. 
Mild-moderate mitral regurgitation. 

CT Head:
Global cerebral edema and lentiform nuclei edema, consistent 
with global 
hypoxic injury. Large parietal and occipital cortical infarcts. 
Watershed 
infarcts in the frontal white matter.

___ PTT-51.4* ___
PLT COUNT-398
WBC-10.4 RBC-4.40* HGB-11.8* HCT-41.3 MCV-94 MCH-26.8* 
MCHC-28.5* RDW-15.0
ASA-NEG ETHANOL-NEG ACETMNPHN-NEG bnzodzpn-NEG barbitrt-NEG 
tricyclic-NEG
LIPASE-43
estGFR-Using this
UREA N-24* CREAT-1.8*
freeCa-1.48*
HGB-13.0* calcHCT-39
GLUCOSE-308* LACTATE-9.2* NA+-142 K+-3.5 CL--101 TCO2-17*
PH-6.85* COMMENTS-GREEN TOP
___ PTT-146.5* ___
PLT COUNT-382
WBC-22.2*# RBC-4.05* HGB-10.8* HCT-37.2* MCV-92 MCH-26.8* 
MCHC-29.1* RDW-15.9*
ALBUMIN-2.5*
ALT(SGPT)-139* AST(SGOT)-163* ALK PHOS-67 AMYLASE-134* TOT 
BILI-0.2
GLUCOSE-361* UREA N-23* CREAT-1.6* SODIUM-144 POTASSIUM-4.4 
CHLORIDE-108 TOTAL CO2-19* ANION GAP-21*
HGB-12.0* calcHCT-36
GLUCOSE-365* LACTATE-8.8* NA+-140 K+-4.2
TIDAL VOL-600 O2-100 PO2-49* PCO2-67* PH-7.01* TOTAL CO2-18* 
BASE XS--16 AADO2-611 REQ O2-98 INTUBATED-INTUBATED
___ PTT-90.4* ___
PLT COUNT-439
NEUTS-86.1* LYMPHS-11.1* MONOS-1.5* EOS-0.6 BASOS-0.7
WBC-22.3* RBC-4.40* HGB-11.9* HCT-41.2 MCV-94 MCH-27.1 
MCHC-29.0* RDW-16.0*
CALCIUM-7.7* PHOSPHATE-7.9* MAGNESIUM-2.3
GLUCOSE-434* UREA N-26* CREAT-2.0* SODIUM-140 POTASSIUM-4.8 
CHLORIDE-103 TOTAL CO2-19* ANION GAP-23*
TYPE-ART PO2-59* PCO2-70* PH-6.97* TOTAL CO2-17* BASE XS--18
LACTATE-7.4*
TYPE-ART PO2-64* PCO2-62* PH-7.05* TOTAL CO2-18* BASE XS--14
URINE  ___ BACTERIA-OCC YEAST-NONE ___
URINE  BLOOD-LG NITRITE-NEG PROTEIN-30 GLUCOSE-NEG KETONE-NEG 
BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 LEUK-NEG
URINE  COLOR-Yellow APPEAR-Clear SP ___
___ PTT-32.0 ___
PLT COUNT-429
WBC-24.9* RBC-4.86 HGB-12.9* HCT-42.5 MCV-88 MCH-26.6* 
MCHC-30.4* RDW-16.4*

URINE  HOURS-RANDOM UREA N-73 CREAT-10 SODIUM-123
ALBUMIN-3.3* CALCIUM-7.8* PHOSPHATE-4.3# MAGNESIUM-1.9
ALT(SGPT)-230* AST(SGOT)-398* LD(LDH)-1248* ALK PHOS-90 TOT 
BILI-0.5
GLUCOSE-171* UREA N-27* CREAT-2.1* SODIUM-142 POTASSIUM-3.6 
CHLORIDE-107 TOTAL CO2-18* ANION GAP-21*

LACTATE-7.3*
TYPE-ART PO2-72* PCO2-40 PH-7.21* TOTAL CO2-17* BASE XS--11
TYPE-ART PO2-222* PCO2-35 PH-7.36 TOTAL CO2-21 BASE XS--4
CALCIUM-7.9* PHOSPHATE-2.4*# MAGNESIUM-1.6
GLUCOSE-103 UREA N-29* CREAT-2.2* SODIUM-141 POTASSIUM-3.7 
CHLORIDE-106 TOTAL CO2-18* ANION GAP-21*
LACTATE-7.1*
TYPE-ART PO2-248* PCO2-30* PH-7.41 TOTAL CO2-20* BASE XS--3

WBC   RBC   Hgb   Hct  MCV MCH  MCHC RDW  Plt Ct 
14.0* 3.30* 9.1* 27.4* 83  27.6 33.3 16.2* 235

Plt Ct ___ 
235   
 
___   ___ 18.5*   PTT 28.6   INR 1.7

Glucose UreaN Creat Na K    Cl HCO3 AnGap 
112*     24*   0.9 142 3.9 110* 25   11

ALT  AST  LD(LDH) CK(CPK) AlkPhos Amylase TotBili DirBili 
IndBili 
129* 83*   596*     65      73                0.6     0.2     
0.4 
 

 
Brief Hospital Course:
Pt was a ___ year old male with a history of hypertrophic 
cardiomyopathy s/p myomectomy in ___ who presented to the 
CCU following a cardiac arrest.  History obtained from family 
and friends suggested that pt had recent intermittent episodes 
of malaise and weakness.  Pt reportedly felt quite weak and was 
diaphoretic one day prior to presentation.  On day of 
presentation, pt was attending a car show, continued to feel 
unwell, complained of chest pain.  EMS was called, and pt was 
initially treated empirically for ACS.  En route to ___, pt 
reportedly had cardiac arrest, ? v.fib vs. v. tach.  CPR was 
initiated, and pt was intubated upon arrival to the ED.  Pt was 
then emergently brought to the cath lab after ECG showed LBB 
block, and it was unclear if it was new or not.  Left heart cath 
showed no coronary disease, a severely depressed LVEF, and a 
balloon pump was placed.  Oxygenation and ventilation was 
difficult during the procedure.  Upon transfer to the unit, a 
full neurologic assessment suggested a grim prognosis.  It was 
thought that the patient's prolonged period of hypoxia was 
likely caused by a ventricular arrhythmia in the field.  
Communication and coordination with both family and the ___ 
___ Organ Bank was inititiated.  The patient received 
cardiopulmonary support with the intent to transition to organ 
donation, as decided by his health care proxy.  The patient was 
then transferred to the surgical service on ___ for organ 
harvest. 
 
Medications on Admission:
metoprolol
coumadin for a. fib
 
Discharge Medications:
expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
expired
 
Discharge Condition:
expired
 
Discharge Instructions:
expired
 
Followup Instructions:
___